US07378415B2
To a solution of (7-benzenesulfonyl-3-oxo-2,3-dihydro-benzo[1,4]oxazin-4-yl)-acetonitrile (0.156 g., 0.475 mmol) in 10 mL anhydrous chloroform was added ethanol (0.029 mL, 0.5 mmol), and the resulting solution was cooled in a water ice/acetone bath to −15° C. Hydrogen chloride gas was bubbled through the solution for 10 minutes, and the flask was sealed and kept at −15° C. for 18 hours. The reaction mixture was concentrated in vacuo and 0.5 Torr vacuum was applied to the residue for 2 hours. The crude imidate was dissolved in 5 mL anhydrous chloroform, and to this solution was added ethylene diamine (0.033 mL, 0.5 mmol) in 4 mL anhydrous chloroform and 5 mL ethanol. The resulting solution was stirred at room temperature for 3 hours, and was then concentrated in vacuo. The residue was purified by flash chromatography (30% “magic base” (6:1:0.1 methylene chloride:methanol:ammonia) in dichlormethane) to give 0.130 g (0.35 mmol, 74%) of 7-benzenesulfonyl-4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-4H-benzo[1,4]oxazin-3-one as a clear oil. MS: 372 (M+H)+, mp: 113.7-116.0° C. (HCl salt).

reactant | (7-benzenesulfonyl-3-oxo-2,3-dihydro-benzo[1,4]oxazin-4-yl)-acetonitrile | 0.475 mmol, 0.156 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(C(CO2)=O)CC#N)C=C1 | C16H12N2O4S
reactant | ethylene diamine | 0.5 mmol, 0.033 mL | C(CN)N | C2H8N2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 0.5 mmol, 0.029 mL | C(C)O | C2H6O
product | 7-benzenesulfonyl-4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-4H-benzo[1,4]oxazin-3-one | 0.35 mmol, 0.130 g, 74% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(C(CO2)=O)CC=2NCCN2)C=C1 | C18H17N3O4S
